US07301022B2
(2S)-N-(2-(6-(2-Acetamidobenzo[d]thiazol-4-yloxy)pyrimidin-4-yl)-5-(trifluoromethyl)phenyl)-1-isobutyl-2-methylpyrrolidine-2-carboxamide.
(2S)-N-(2-(6-(2-Acetamidobenzo[d]thiazol-4-yloxy)pyrimidin-4-yl)-5-(trifluoromethyl)phenyl)-2-methylpyrrolidine-2-carboxamide, Example 57, (56 mg, 0.1 mmol) was reacted with 2-methyl-propionaldehyde (0.011 mL, 0.12 mmol, Aldrich) under the conditions of Example 3(d) to give the title compound as a white solid. MS (ESI, pos. ion.) m/z: 613 (M+1).

reactant | (2S)-N-(2-(6-(2-Acetamidobenzo[d]thiazol-4-yloxy)pyrimidin-4-yl)-5-(trifluoromethyl)phenyl)-2-methylpyrrolidine-2-carboxamide | C(C)(=O)NC=1SC2=C(N1)C(=CC=C2)OC2=CC(=NC=N2)C2=C(C=C(C=C2)C(F)(F)F)NC(=O)[C@]2(NCCC2)C | C26H23F3N6O3S
reactant | 2-methyl-propionaldehyde | 0.12 mmol, 0.011 mL | CC(C=O)C | C4H8O
product | (2S)-N-(2-(6-(2-Acetamidobenzo[d]thiazol-4-yloxy)pyrimidin-4-yl)-5-(trifluoromethyl)phenyl)-1-isobutyl-2-methylpyrrolidine-2-carboxamide | C(C)(=O)NC=1SC2=C(N1)C(=CC=C2)OC2=CC(=NC=N2)C2=C(C=C(C=C2)C(F)(F)F)NC(=O)[C@]2(N(CCC2)CC(C)C)C | C30H31F3N6O3S
